US06034086
In 30 ml of pyridine were dissolved 1.5 g (0.0049 mole) of 6,7-difluoro-8-trifluoromethyl-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid and 1.5 g (0.015 mole) of 2-methylpiperazine, the mixture was stirred at 105° C. for 3 hours, and then the solvent was removed by evaporation under reduced pressure. Ethanol was added to the residue, precipitated crystals were collected by filtration, the crystals obtained were washed with ethanol and dried, and then 1.49 g of 6-fluoro-8-trifluoromethyl-1,4-dihydro-4-oxo-1-methyl-7-(3-methylpiperazin-1-yl)quinoline-3-carboxylic acid was obtained as yellow powder.

reactant | 6,7-difluoro-8-trifluoromethyl-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid | 0.0049 mole, 1.5 g | FC=1C=C2C(C(=CN(C2=C(C1F)C(F)(F)F)C)C(=O)O)=O | C12H6F5NO3
reactant | 2-methylpiperazine | 0.015 mole, 1.5 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-8-trifluoromethyl-1,4-dihydro-4-oxo-1-methyl-7-(3-methylpiperazin-1-yl)quinoline-3-carboxylic acid | 1.49 g | FC=1C=C2C(C(=CN(C2=C(C1N1CC(NCC1)C)C(F)(F)F)C)C(=O)O)=O | C17H17F4N3O3
